US06670493B2
Water (2 ml) is added to 1.2 g of 4-(3,3-dimethoxy-17α-ethinyl-5α-hydroxy-17β-methoxy-estr-9-en-11β-yl)benzaldehyde ethylene acetal in 20 ml of acetone. After the addition of 300 mg of 4-toluenesulfonic acid, the mixture is stirred for 2 hours at room temperature. The reaction solution is stirred into 300 ml of ice water, a flaky precipitate being obtained. After neutralization with sodium bicarbonate solution and stirring for 30 minutes, the precipitate is filtered off with suction, washed with water and dried under vacuum, 786 mg being obtained as a yellow foam. The crude product is purified by preparative layer chromatography on silica gel PF254+366nm (MERCK AG) with a mixture of 4:1 of toluene:acetone as mobile phase, 430 mg of 4-(17α-ethinyl-17β-hydroxy-3-oxoestra-4,9-diene-11β-yl)benzaldehyde being obtained. The product is recrystallized from boiling t-butyl methyl ether with addition of n-hexane.

reactant | Water | 2 ml | O | H2O
reactant | 4-(3,3-dimethoxy-17α-ethinyl-5α-hydroxy-17β-methoxy-estr-9-en-11β-yl)benzaldehyde ethylene acetal | 1.2 g | C1COC(C2=CC=C(C=C2)[C@@H]2C3=C4CCC(C[C@@]4(CC[C@H]3[C@@H]3CC[C@@]([C@@]3(C)C2)(OC)C#C)O)(OC)OC)O1 | C32H42O6
reactant | 4-toluenesulfonic acid | 300 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 4-(17α-ethinyl-17β-hydroxy-3-oxoestra-4,9-diene-11β-yl)benzaldehyde | 430 mg | C(#C)[C@]1([C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CCC3=C1[C@H](C2)C2=CC=C(C=O)C=C2)=O)O | C27H28O3
